US07300951B2
To a solution of sodium bis(trimethylsilyl)amide (57 mL, 1.0 M in THF, 57 mmol) in THF (250 mL) at −40° C. was added (4R)-4-benzyl-3-(4,4,4-trifluorobutanoyl)-1,3-oxazolidin-2-one (15.60 g, 51.78 mmol) in THF (250 mL) dropwise over 15 min. After 1 h, iodomethane (4.2 mL, 67 mmol) was added. After 3 h, the reaction mixture was warmed to −20° C. for about 20 min. The mixture was quenched with saturated aqueous ammonium chloride (NH4Cl) (300 mL) and then extracted with EtOAc (2×300 mL), dried using Na2SO4, and concentrated. Flash chromatography (eluent: 1:9 EtOAc-hexane) provided (4R)-4-benzyl-3-[(2R)-4,4,4-trifluoro-2-methylbutanoyl]-1,3-oxazolidin-2-one (12.04 g, 74%) as a colorless oil. [α]D25=−98.68° (c=1% SOLUTION, DMSO).

reactant | sodium bis(trimethylsilyl)amide | 57 mmol, 1.0 M, 57 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | (4R)-4-benzyl-3-(4,4,4-trifluorobutanoyl)-1,3-oxazolidin-2-one | 51.78 mmol, 15.60 g | C(C1=CC=CC=C1)[C@H]1N(C(OC1)=O)C(CCC(F)(F)F)=O | C14H14F3NO3
reactant | iodomethane | 67 mmol, 4.2 mL | IC | CH3I
solvent | THF | 250 mL | C1CCOC1 | C4H8O
solvent | THF | 250 mL | C1CCOC1 | C4H8O
product | (4R)-4-benzyl-3-[(2R)-4,4,4-trifluoro-2-methylbutanoyl]-1,3-oxazolidin-2-one | 12.04 g, 74% | C(C1=CC=CC=C1)[C@H]1N(C(OC1)=O)C([C@@H](CC(F)(F)F)C)=O | C15H16F3NO3
